US07671036B2
A General Method for the Preparation of 2-(2-Phthalimidoethylamino)ethanol (14)
10.4 g (0.1 mol) of N,N-(2-hydroxyethyl),ethyl amine and 22 g (0.1 mol) of N-ethoxycarbonyl phthalimide were dissolved in 50 ml of H2O and stirred for 2 hours. The reaction mixture was lyophilized and the solid product washed with methanol (40 ml). The remaining white solid (Compound 14) was collected and dried.

reactant | N-ethoxycarbonyl phthalimide | 0.1 mol, 22 g | C(C)OC(=O)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | H2O | 50 ml | O | H2O
product | 2-(2-Phthalimidoethylamino)ethanol | C1(C=2C(C(N1CCNCCO)=O)=CC=CC2)=O | C12H14N2O3
